US06828460B2
trans-4-(2,4-Dihydroxyphenyl)cyclohexyl Cyclohexylcarbamate
A mixture of trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl cyclohexylcarbamate (28 mg), methanol (10 ml) and Amberlyst fluoride resin (0.3 g) were stirred at room temperature for 72 hr. The reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:3 v/v) to give the title compound as a white solid (6 mg, 36%); δH(CD3OD) 1.10-2.12 (18H, m), 2.70-2.82 (1H, m), 4.46-4.60 (1H, m), 6.18-6.30 (2H, m), 6.80-6.92 (1H, m); m/z (ES+) 334 (M+H)+.

reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl cyclohexylcarbamate | 28 mg | C1(CCCCC1)NC(O[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C31H55NO4Si2
reactant | fluoride | 0.3 g | [F-]
solvent | methanol | 10 ml | CO | CH4O
product | trans-4-(2,4-Dihydroxyphenyl)cyclohexyl Cyclohexylcarbamate | 6 mg, 36% | C1(CCCCC1)NC(O[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O)O)=O | C19H27NO4
